US05395944
d) 1-Aminomethyl-3-oxa-7-azabicyclo[3.3.0]octane
2.8 g (12.1 mmol) of 1-aminomethyl-7-azabicyclo[3.3.0]octane are dissolved in 50 ml of ethanol and hydrogenated on 0.3 g of palladium-active charcoal at 100° C. and 100 bar. The catalyst is filtered off with suction and the filtrate is concentrated and distilled.

reactant | 1-aminomethyl-7-azabicyclo[3.3.0]octane | 12.1 mmol, 2.8 g | NCC12CCCC2CNC1 | C8H16N2
reactant | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium | 0.3 g | [Pd] | Pd
product | 1-Aminomethyl-3-oxa-7-azabicyclo[3.3.0]octane | NCC12COCC2CNC1 | C7H14N2O
